* D:\Github\pulseAnalysis\Hardware\ChargeAmplifierAndGausianPulseShaper\pulseShaperSimulation.asc
XU1 0 N002 N001 N015 N003 AD820
V2 N001 0 5
V3 0 N015 5
XU2 N010 N007 N001 N015 N007 AD820
XU3 N014 N008 N001 N015 N008 AD820
R2 N010 0 1k
R3 N014 N007 100
C3 N014 0 10n
XU4 N013 N006 N001 N015 N006 AD820
R4 N013 N008 100
C4 N013 0 10n
XU5 N012 N005 N001 N015 N005 AD820
R5 N012 N006 100
C5 N012 0 10n
XU6 N011 N004 N001 N015 N004 AD820
R6 N011 N005 100
C6 N011 0 10n
R7 N004 0 200
C2 N010 N009 10n
R8 N010 N009 10.5k
C1 N002 N003 1p
R1 N003 N002 1000000
I1 N002 0 PULSE(0 5000n 0.01 1u 1u 1n)
R9 N009 N003 100
V1 N018 0 9
V4 0 N019 9
C7 N016 N017 1p
R10 N017 N016 1000000
I2 N016 0 PULSE(0 5u 0.01 10u 100u 1n)
R11 0 N017 500
XU8 0 N016 N018 N019 N017 LT1792
.tran .1
.lib ADI1.lib
.lib LTC.lib
.backanno
.end
