* D:\Github\pulseAnalysis\Hardware\ChargeAmplifierAndGausianPulseShaper\Simulations\Draft5.asc
Q1 N003 N006 N004 0 ZTX1048A
R1 N005 N006 10
R2 N004 0 .2
V1 N002 0 5
R3 N001 N003 1
R5 N008 N007 500k
C1 N008 0 2200µ
R6 N008 0 100k
R4 N001 N007 10k
R7 N007 0 3k
V2 N001 0 PULSE(0 5 1 0.01 0.01 10000)
XU1 N008 N004 N002 0 N005 NC_01 LT1218
.model NPN NPN
.model PNP PNP
.lib C:\Users\justRandom\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 10 0
.lib LTC.lib
.backanno
.end
