* D:\Dropbox (icts)\Altium\PulseAmplifier\pulseShaperSimulation.asc
V1 N014 0 PULSE(0 1 0 0 0 1n 1 1)
C1 N013 0 100n
R1 N013 0 1000
D1 N014 N013 D
XU1 N013 N007 N001 N015 N007 AD820
V2 N001 0 5
V3 0 N015 5
XU2 N008 N005 N001 N015 N005 AD820
XU3 N012 N006 N001 N015 N006 AD820
R2 N008 0 1k
R3 N012 N005 1k
C3 N012 0 10n
XU4 N011 N004 N001 N015 N004 AD820
R4 N011 N006 1k
C4 N011 0 10n
XU5 N010 N003 N001 N015 N003 AD820
R5 N010 N004 1k
C5 N010 0 10n
XU6 N009 N002 N001 N015 N002 AD820
R6 N009 N003 1k
C6 N009 0 10n
R7 N002 0 200
C2 N008 N007 10n
R8 N008 N007 10.5k
.model D D
.lib C:\Users\justRandom\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 10ms 0
.lib ADI1.lib
.backanno
.end
